US06916828B2
3-quinuclidyl N-benzyl-N-phenylcarbamate, hydrochloride
To a suspension of 750 mg (2.58 mmol) of hydrochloride of 3-quinuclidyl chloroformate in 20 mL of 1,2-dichloroethane, a solution of 395 mg (2.15 mmol) of N-phenylbenzylamine in 5 mL of 1,2-dichloroethane was added dropwise. Once completed the addition, the mixture was refluxed for three hours. The reaction crude was allowed to cool down and the solvent distilled off under reduced pressure. The residue was purified by column chromatography (eluent: chloroform-methanol 10:1) yielding 720 mg (1.95 mmol) of a hygroscopic foam corresponding to the title compound. IR (KBr, cm−1): 3400-3200, 2700-2300, 1700 cm−1. 1H-RMN (δTMS, CDCl3, ppm): 12.30 (1H, s), 7.20-6.90 (10H, m), 5.10 (1H, m), 4.83 (2H, m), 3.52 (1H, m), 3.18 (4H, m), 2.80 (1H, m), 2.34 (1H, s), 1.92 (2H, m), 1.60 (2H, m).

reactant | hydrochloride | 2.58 mmol, 750 mg | Cl | ClH
reactant | 3-quinuclidyl chloroformate | ClC(=O)OC1CN2CCC1CC2 | C8H12ClNO2
reactant | N-phenylbenzylamine | 2.15 mmol, 395 mg | C1(=CC=CC=C1)NCC1=CC=CC=C1 | C13H13N
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 3-quinuclidyl N-benzyl-N-phenylcarbamate, hydrochloride | Cl.C(C1=CC=CC=C1)N(C(OC1CN2CCC1CC2)=O)C2=CC=CC=C2 | InChI=1S/C21H24N2O2.ClH/c24-21(25-20-16-22-13-11-18(20)12-14-22)23(19-9-5-2-6-10-19)15-17-7-3-1-4-8-17;/h1-10,18,20H,11-16H2;1H
